US04117238
400 g of methyl methacrylate (4 mole), 200 g of cyclohexanol (2 mole) and 0.30 g of N,N'-diphenylbenzidine (500 ppm) are added to a 1 liter round-bottomed flask. Azeotropic dehydration is accomplished by conducting air through the resulting mixture, by way of a 1 m vigreux column. After cooling of the contents of the flask to about 75° C., 3 g of potassium cyanide (0.5%) are added, and the methyl methacrylate/methanol-azeotrope is distilled-off at a temperature of 65° C. at the head of the column. The trans-esterification is completed after 3.5 hours. After cooling of the flask, the sump is filtered to remove the potassium cyanide, and the filter residue is washed with a little methyl methacrylate. The filtrate is concentrated at 40° C. under a water jet vacuum. A residue of cyclohexyl methacrylate of 310 g = 85% will result.

reactant | methyl methacrylate | 4 mole, 400 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | cyclohexanol | 2 mole, 200 g | C1(CCCCC1)O | C6H12O
reactant | N,N'-diphenylbenzidine | 0.30 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1 | C24H20N2
reactant | potassium cyanide | 3 g | [C-]#N.[K+]
reactant | methyl methacrylate methanol | C(C(=C)C)(=O)OC.CO
product | cyclohexyl methacrylate | C(C(=C)C)(=O)OC1CCCCC1 | C10H16O2
